US07799775B2
To a mixture of 10 ml of tetrahydrofuran and 5 ml of dimethylformamide, 340 mg of potassium 3-methyl-4-oxo-3,4,5,6,7,8-hexahydroquinazoline-2-thiolate was added, followed by addition of 210 mg of methyl iodide and an overnight's stirring at room temperature. The solution was concentrated, to which chloroform was added, followed by washing with saturated brine and drying over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, 310 mg (quantitative) of 3-methyl-2-methylthio-5,6,7,8-tetrahydro-3H-quinazolin-4-one was obtained.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | potassium 3-methyl-4-oxo-3,4,5,6,7,8-hexahydroquinazoline-2-thiolate | 340 mg | CN1C(=NC=2CCCCC2C1=O)[S-].[K+]
reactant | methyl iodide | 210 mg | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-methyl-2-methylthio-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 310 mg | CN1C(=NC=2CCCCC2C1=O)SC | C10H14N2OS
